US03987042
0.9 ml of a 65% suspension of sodium amide in xylene and then 25 ml of hexamethylphosphotriamide were added to a suspension of 5.3 g of 2-trifluoromethyl-phenothiazine in 25 ml of xylene. The mixture was agitated and heated to reflux. When the evolution of ammonia ceased (2 hours), 16.3 ml of a 9.8% solution of 3-chloromethyl-quinuclidine in xylene were added to the reaction mixture over a period of 30 minutes and refluxing was continued for 18 hours. After cooling, the xylene was evaporated off under reduced pressure and the residual solution was poured into 250 ml of distilled water. The precipitate obtained was separated on Clarcel filter medium, washed with 50 ml of distilled water, and then suspended in 100 ml of ethyl acetate. The insoluble portion was filtered off and the filtrate was washed with 30 ml of distilled water, and then extracted three times with a total of 150 ml of N.aqueous acetic acid. The combined acid extracts were rendered alkaline on an ice bath with 25 ml of ION aqueous sodium carbonate and the oil which separated was extracted twice with a total of 200 ml of ethyl acetate. The combined organic extracts were dried over magnesium sulphate and evaporated. The residue was recrystallised in acetonitrile; 2-trifluoromethyl-10-(3-quinuclidinyl-methyl)-phenothiazine, m.p. 150° C, was obtained.

reactant | sodium amide | [NH2-].[Na+]
reactant | 2-trifluoromethyl-phenothiazine | 5.3 g | FC(C1=CC=2NC3=CC=CC=C3SC2C=C1)(F)F | C13H8F3NS
reactant | ammonia | N | H3N
reactant | 3-chloromethyl-quinuclidine | ClCC1CN2CCC1CC2 | C8H14ClN
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | hexamethylphosphotriamide | 25 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-trifluoromethyl-10-(3-quinuclidinyl-methyl)-phenothiazine | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CC1CN2CCC1CC2)(F)F | C21H21F3N2S
